US07179811B2
A mixture of 2,3-pyridinediamine (0.05 mol) and ethyl 4-(2-ethoxy-2-iminoethyl)-1-piperidinecarboxylate monohydrochloride (0.05 mol) in methanol (150 ml) was stirred and refluxed for 3 days. The solvent was evaporated and the residue was taken up in CH2Cl2. The organic solution was washed with K2CO3 10%, dried, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH/NH4OH 94/6/0.1). The pure fractions were collected and the solvent was evaporated, yielding 7.6 g of ethyl 4-[(1H-imidazo[4,5-b]pyridin-2-yl)methyl]-1-piperidinecarboxylate (52%) (interm. 9).

reactant | 2,3-pyridinediamine | 0.05 mol | N1=C(C(=CC=C1)N)N | C5H7N3
reactant | ethyl 4-(2-ethoxy-2-iminoethyl)-1-piperidinecarboxylate monohydrochloride | 0.05 mol | Cl.C(C)OC(CC1CCN(CC1)C(=O)OCC)=N
solvent | methanol | 150 ml | CO | CH4O
product | ethyl 4-[(1H-imidazo[4,5-b]pyridin-2-yl)methyl]-1-piperidinecarboxylate | 7.6 g, 52% | N1C(=NC2=NC=CC=C21)CC2CCN(CC2)C(=O)OCC | C15H20N4O2
